US04777163
Tetraethyl-2-(1,2,5-thiadiazol-4-yl)-ethane-1,1-diphosphonate
A solution of 1.62 g. tetraethyl methanediphosphonate in 10 ml. anhydrous toluene is added dropwise to 0.2 g. sodium hydride (69%) in 10 ml. anhydrous toluene. After termination of the evolution of hydrogen, 1 g. 4-bromomethyl-1,2,5-thiadiazole in 10 ml. anhydrous toluene is added thereto and the reaction mixture stirred for 12 hours at ambient temperature. A little water is then added and the organic phase is separated off, dried and evaporated. The residue is purified over a column of silica gel (100 g.; elution agent methylene chloride/methanol 98:2 v/v). There is thus obtained 1.18 g. of the desired product in the form of a colourless oil; yield 55% of theory.

reactant | tetraethyl methanediphosphonate | C(P(OCC)(=O)OCC)P(OCC)(=O)OCC | C9H22O6P2
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-bromomethyl-1,2,5-thiadiazole | BrCC=1C=NSN1 | C3H3BrN2S
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Tetraethyl-2-(1,2,5-thiadiazol-4-yl)-ethane-1,1-diphosphonate | yield 55% | C(C)OP(OCC)(=O)C(CC=1C=NSN1)P(OCC)(=O)OCC | C12H24N2O6P2S
